US05541317
2-Propionylthioquinoline
480 mg (1.2 equivalents) of propionyl chloride were added, whilst ice-cooling, to a solution of 1 g of 2-quinolinethiol and 0.83 ml (1.2 equivalents) of triethylamine in 20 ml of anhydrous methylene chloride, and the resulting mixture was stirred for 30 minutes. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was mixed with ethyl acetate. This mixture was washed twice with a dilute aqueous solution of sodium hydrogencarbonate and was then washed with water. The organic layer was separated and dried over anhydrous magnesium sulfate and the solvent was removed by distillation under reduced pressure. The residue was purified by flash chromatography through silica gel, using a 1:1 by volume mixture of cyclohexane and ethyl acetate as the eluent, to give 600 mg of the title compound having an Rf value of 0.4.

reactant | propionyl chloride | 480 mg, 1.2 equivalents | C(CC)(=O)Cl | C3H5ClO
reactant | 2-quinolinethiol | 1 g | N1=C(C=CC2=CC=CC=C12)S | C9H7NS
reactant | triethylamine | 0.83 ml, 1.2 equivalents | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 2-Propionylthioquinoline | 600 mg | C(CC)(=O)SC1=NC2=CC=CC=C2C=C1 | C12H11NOS
